US06586445B1
(3R)-1,1-Dibutyl-3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro[1]benzothieno [2,3-c]pyridine
To a solution of (1R)-2-(1-benzothiophen-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)-1-ethanamine (1 g, 2.5 mmol) in n-butanol (20 ml) was added 5-nonanone (2.2 ml, 13 mmol) and the mixture refluxed overnight. The solvent was removed under reduced pressure. To the residue was added water (15 ml) followed by a 10% NaHCO3 solution until neutral pH and extracted with ethyl acetate (3×20 ml). The combined organic extracts were washed with water (2×10 ml), dried over MgSO4, filtered. The solvent was evaporated under reduced pressure to afford an oil which was purified by column chromatography on silica gel using ethyl acetate/heptane 1:1 as eluent. After removing the solvent, diisopropyl ether was added to the residue. The resulting white precipitate was filtered off and washed with diisopropyl ether to afford 0.1 g of the title product. Melting point: 198-200° C.

reactant | (1R)-2-(1-benzothiophen-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)-1-ethanamine | 2.5 mmol, 1 g | S1C=C(C2=C1C=CC=C2)C[C@@H](N)C=2NC=C(N2)C2=CC=CC=C2 | C19H17N3S
reactant | 5-nonanone | 13 mmol, 2.2 ml | CCCCC(CCCC)=O | C9H18O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | (3R)-1,1-Dibutyl-3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro[1]benzothieno [2,3-c]pyridine | 0.1 g | C(CCC)C1(N[C@H](CC2=C1SC1=C2C=CC=C1)C=1NC=C(N1)C1=CC=CC=C1)CCCC | C28H33N3S
